US08609710B2
[Step 1] [1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-imidazol-4-yl]methanol
Ethyl 3-(dimethylamino)-2-isocyanoacrylate (300 mg) and trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexylamine (Synthetic Communications, 1990, Vol. 20, p. 1073) (1.02 g) were mixed and stirred at 85° C. for 12 hours. To the reaction solution, saturated aqueous ammonium chloride was added, and organic matter was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and filtered, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluting solvent: hexane/ethyl acetate-4/1-1/1). Lithium aluminum hydride (92%, 105 mg) was suspended in tetrahydrofuran (8 mL). The produced crude product was dissolved in tetrahydrofuran (6 mL), and this solution was slowly added dropwise to the suspension at 0° C. After stirring at 0° C. for 1 hour, the reaction solution was diluted with diethyl ether, and saturated aqueous sodium sulfate was added thereto. After stirring at room temperature for 1 hour, the formed inorganic salt was removed by filtration through celite. The filtrate was concentrated under reduced pressure to obtain a crude product. This crude product was washed with a mixed solvent of hexane and ethyl acetate (2:1) to obtain the title compound (260 mg).

reactant | Ethyl 3-(dimethylamino)-2-isocyanoacrylate | 300 mg | CN(C=C(C(=O)OCC)[N+]#[C-])C | C8H12N2O2
reactant | trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexylamine | 1.02 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N | C12H27NOSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
product | [1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-imidazol-4-yl]methanol | 260 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1C=NC(=C1)CO | C16H30N2O2Si
